US05856274
Lithium hydroxide monohydrate (4.95 g) was added to a solution of methyl mercaptan (4.4 g) in N,N-dimethyl formamide, and 4-chloro-3-fluoro-2-(methylsulphenyl)benzoic acid (5.5 g) was added to the resultant mixture. It was stirred at room temperature for 1 hour and heated to 80° C. overnight. It was cooled, poured into water, extracted with ether, washed with water, dried (Na2SO4) and filtered. The filtrate was evaporated to dryness and the residue was purified by column chromatography eluted with a mixture of acetic acid, ether and hexane (1:10:89) to give 2,3-bis(methylsulphenyl)-4-chlorobenzoic acid (3.24 g) as an off white solid, m.p. 130°-131° C.

reactant | Lithium hydroxide monohydrate | 4.95 g | O.[OH-].[Li+]
reactant | methyl mercaptan | 4.4 g | CS | CH4S
reactant | 4-chloro-3-fluoro-2-(methylsulphenyl)benzoic acid | 5.5 g | ClC1=C(C(=C(C(=O)O)C=C1)SC)F | C8H6ClFO2S
reactant | water | O | H2O
solvent | N,N-dimethyl formamide | CN(C=O)C | C3H7NO
product | 2,3-bis(methylsulphenyl)-4-chlorobenzoic acid | 3.24 g | CSC1=C(C(=O)O)C=CC(=C1SC)Cl | C9H9ClO2S2
